US07893058B2
Step 2:N-(5-Amino-pyridin-2-yl)-2-phenylacetamide
A solution of N-(5-nitropyridin-2-yl)-2-phenylacetamide (4.35 g, 16.9 mmol) in EtOH (75 mL) and EtOAc (75 mL) is stirred at rt and ammonium formate (4.27 g) and 10% Pd/C (500 mg) are added. The mixture is heated at reflux for 30 min, cooled, filtered through celite and evaporated to afford the title compound as an off-white solid which was used without further purification.

reactant | N-(5-nitropyridin-2-yl)-2-phenylacetamide | 16.9 mmol, 4.35 g | [N+](=O)([O-])C=1C=CC(=NC1)NC(CC1=CC=CC=C1)=O | C13H11N3O3
reactant | ammonium formate | 4.27 g | C(=O)[O-].[NH4+]
solvent | EtOH | 75 mL | CCO | C2H6O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | N-(5-Amino-pyridin-2-yl)-2-phenylacetamide | NC=1C=CC(=NC1)NC(CC1=CC=CC=C1)=O | C13H13N3O
